US06498251B1
Synthesis Example 46d 1-Hydroxy-1-pyridin-4-yl-indane
4-Bromopyridine hydrochloride (1.9 g, 10 mmol) was dried and then suspended in diethyl ether (30 ml), and the suspension was mixed with n-butyl lithium hexane solution (1.6 M, 12 ml, 19 mmol) at −60° C. and stirred for 3 hours. The reaction solution was mixed with 1-indanone (2.0 g, 15 mmol) and then the reaction solution was stirred for 18 hours while gradually returning to room temperature. Ethyl acetate (50 ml) and water (50 ml) were added to the reaction solution to extract the reaction product, and the ethyl acetate layer was washed with water and then dried with anhydrous sodium sulfate. The solvent was removed by evaporation from the extract under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 420 mg (2.0 mmol, 20% in yield) of the title compound.

reactant | 4-Bromopyridine hydrochloride | 10 mmol, 1.9 g | Cl.BrC1=CC=NC=C1
reactant | n-butyl lithium hexane | 19 mmol, 1.6 M, 12 ml | CCCCCC.C(CCC)[Li]
reactant | 1-indanone | 15 mmol, 2.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 1-Hydroxy-1-pyridin-4-yl-indane | OC1(CCC2=CC=CC=C12)C1=CC=NC=C1 | C14H13NO
